US08729061B2
Step B7: (2S,3S)—N-cyclopropyl-3-(dibenzylamino)-2-hydroxypentanamide
Under an atmosphere of argon, (2S,3S)-3-(dibenzylamino)-2-hydroxypentanoic acid (5.85 g, 18.7 mmol, Eq: 1.00), cyclopropanamine (2.13 g, 2.62 ml, 37.3 mmol, Eq: 2) were combined with dichloromethane (100 ml) to give a light yellow solution. At 0° C. HOBt (4.29 g, 28.0 mmol, Eq: 1.5), EDC (5.37 g, 28.0 mmol, Eq: 1.5) and N-methylmorpholine (3.78 g, 4.1 ml, 37.3 mmol, Eq: 2) were added to the reaction. The reaction was stirred overnight at RT. The reaction mixture was poured into water (150 ml) and extracted with dichloromethane. The organic layer was back-extracted with water. The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 60% ethyl acetate in heptane). The title compound was obtained as a light brown crystalline (4.42 g, 67.2%, MS (m/e)=353.3 [M+H+]).

reactant | (2S,3S)-3-(dibenzylamino)-2-hydroxypentanoic acid | 18.7 mmol, 5.85 g | C(C1=CC=CC=C1)N([C@H]([C@@H](C(=O)O)O)CC)CC1=CC=CC=C1 | C19H23NO3
reactant | cyclopropanamine | 37.3 mmol, 2.62 ml, 2.13 g | C1(CC1)N | C3H7N
reactant | HOBt | 28.0 mmol, 4.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 28.0 mmol, 5.37 g
reactant | N-methylmorpholine | 37.3 mmol, 4.1 ml, 3.78 g | CN1CCOCC1 | C5H11NO
solvent | water | 150 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2S,3S)—N-cyclopropyl-3-(dibenzylamino)-2-hydroxypentanamide | C1(CC1)NC([C@H]([C@H](CC)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C22H28N2O2
